US08648066B2
2-amino-N,N-dimethyl-5-[4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide.
Prepared according to the method of example 5 by using 4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydrobenzo[f][1,4]oxazepin-7-ylboronic acid (reagent preparation 23) and 2-amino-5-bromo-N,N-dimethylpyridine-3-sulfonamide (reagent preparation 25) in step 1. 1H NMR (400 MHz, methanol-d4): 8.47 (s, 1H), 8.04 (s, 1H), 7.52 (s, 1H), 7.41 (d, 1H), 7.06 (d, 1H), 4.71 (s, 2H), 4.31 (m, 2H), 4.00 (m, 2H), 2.80 (s, 6H), 2.75 (m, 2H), 2.45 (s, 2H), 2.40 (s, 3H), 1.67 (m, 2H), 0.91 (s, 6H); MS (EI) for C27H34N6O3S: 523 (MH+).

reactant | 4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydrobenzo[f][1,4]oxazepin-7-ylboronic acid | CC1=NC=2CCC(CC2C(=N1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)(C)C | C20H26BN3O3
reactant | 2-amino-5-bromo-N,N-dimethylpyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N(C)C)Br | C7H10BrN3O2S
product | 2-amino-N,N-dimethyl-5-[4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N(C)C)C=1C=CC2=C(CN(CCO2)C2=NC(=NC=3CCC(CC23)(C)C)C)C1 | C27H34N6O3S
